US06316482B1
A mixture of 4-(3-benzyl-2-methoxymethyl-3H-benzimidazol-4-yl)carbonylamino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (200 mg) and 5% formic acid in methanol solution (10 ml) was refluxed for 24 hours. The reaction mixture was concentrated in vacuo and the residue was dissolved in chloroform. The solution was washed with saturated aqueous sodium bicarbonate solution and the organic layer was dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was purified by preparative thin-layer chromatography (chloroform-methanol=10:1) to give 3-methoxy-4-(2-methoxymethyl-1H-benzimidazol-4-yl)carbonylamino-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (48 mg) as a powder.

reactant | 4-(3-benzyl-2-methoxymethyl-3H-benzimidazol-4-yl)carbonylamino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 200 mg | C(C1=CC=CC=C1)N1C(=NC2=C1C(=CC=C2)C(=O)NC2=C(C=C(C(=O)N(C1=C(C=C(C=C1)C)OCCCCCC(=O)N1CCN(CC1)C)C)C=C2)OC)COC | C44H52N6O6
reactant | formic acid | C(=O)O | CH2O2
solvent | methanol | 10 ml | CO | CH4O
product | 3-methoxy-4-(2-methoxymethyl-1H-benzimidazol-4-yl)carbonylamino-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 48 mg | COC=1C=C(C(=O)N(C2=C(C=C(C=C2)C)OCCCCCC(=O)N2CCN(CC2)C)C)C=CC1NC(=O)C1=CC=CC=2NC(=NC21)COC | C37H46N6O6
